US05364871
A mixture of 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole trihydrochloride (1.7 g), triethylamine (2.0 ml) and 1,1-bis(methylthio)-2-nitroethylene (0.9 g) was stirred at 70° C. for 7 hours. After cooling to ambient temperature, to the mixture was added a 40% aqueous methylamine (2.5 ml) and the mixture was stirred at ambient temperature for 15 hours. The reaction mixture was added to water, and the isolated precipitate was collected by filtration and dried. 4N-Dioxanoic hydrogen chloride (2.2 ml) was added to a mixture of above resulting precipitate in methanol (9.0 ml) and the mixture was stirred at ambient temperature for 1 hour. To the mixture was added a diisopropyl ether (9.0 ml) and the isolated precipitate was collected by filtration. The precipitate was recrystallized from an aqueous ethanol to give 2-(diaminomethyleneamino)-4-[6-[N-(1-methylamino-2-nitrovinyl)aminomethyl]pyridin-2-yl]thiazole (0.47 g).

reactant | 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole trihydrochloride | 1.7 g | Cl.Cl.Cl.NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N
reactant | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | 1,1-bis(methylthio)-2-nitroethylene | 0.9 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
reactant | methylamine | 2.5 ml | CN | CH5N
solvent | water | O | H2O
product | 2-(diaminomethyleneamino)-4-[6-[N-(1-methylamino-2-nitrovinyl)aminomethyl]pyridin-2-yl]thiazole | 0.47 g | NC(N)=NC=1SC=C(N1)C1=NC(=CC=C1)CNC(=C[N+](=O)[O-])NC | C13H16N8O2S
